US07414061B2
4-[2-(3-Fluoro-benzyloxymethyl)-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole
As described for Example 157, 4-[2-chloromethyl-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole (100 mg, 0.25 mmol), using 3-fluorobenzyl alcohol instead of 3-chlorobenzyl alcohol, was converted to the title compound (70 mg, 57%) which was obtained as a light yellow solid. MS: m/e=485.5 [M+H]+.

reactant | 4-[2-chloromethyl-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 0.25 mmol, 100 mg | ClCC=1N(C=C(N1)C=1C(=NOC1C)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C20H15ClN4O3
reactant | 3-fluorobenzyl alcohol | FC=1C=C(CO)C=CC1 | C7H7FO
product | 4-[2-(3-Fluoro-benzyloxymethyl)-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 70 mg, 57% | FC=1C=C(COCC=2N(C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-])C=CC1 | C27H21FN4O4
